US07597875B2
The Preparation of Compound 2—the Benzamide Conjugate of Compound 1
RF 0.8 in 100:30:5/CH2Cl2:MeOH: 880 Ammonia, visualised with ninhydrin.

reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | Ammonia | N | H3N
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
solvent | MeOH | CO | CH4O
product | Benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
